US05591776
f) N-(3-Cyclopentyloxy-4-methoxyphenyl-acetyl)-2-allyloxy-5-chloroaniline
In this step, allyl chloride (23.3 grams, 0.31 mol) was added to a stirred solution of N-(3-cyclopentyloxy-4-methoxyphenylacetyl)-2-hydroxy-5-chloroaniline (78 grams, 0.21 mol) in ethanol (600 millilters) and 1N NaOH in methanol (213 milliters). The mixture was heated under reflux for 8 hours and then diluted with water and extracted twice with ethyl acetate. Evaporation of the ethyl acetate and crystallization of the residue from methanol gave 56.4 grams (65%) of the title compound, mp 75°-76.5°.

reactant | allyl chloride | 0.31 mol, 23.3 grams | C(C=C)Cl | C3H5Cl
reactant | N-(3-cyclopentyloxy-4-methoxyphenylacetyl)-2-hydroxy-5-chloroaniline | 0.21 mol, 78 grams | C1(CCCC1)OC=1C=C(C=CC1OC)CC(=O)NC1=C(C=CC(=C1)Cl)O | C20H22ClNO4
solvent | ethanol | C(C)O | C2H6O
solvent | NaOH | 1N | [OH-].[Na+]
solvent | methanol | CO | CH4O
solvent | water | O | H2O
product | N-(3-Cyclopentyloxy-4-methoxyphenyl-acetyl)-2-allyloxy-5-chloroaniline | 56.4 grams, 65% | C1(CCCC1)OC=1C=C(C=CC1OC)CC(=O)NC1=C(C=CC(=C1)Cl)OCC=C | C23H26ClNO4
